US06268387B1
Step A: 3,4-Dichloro-N-(3-nitro-4-fluorophenyl)-benzamide
3,4-Dichlorobenzoyl chloride (4.3 g, 20.5 mmol) was added all at once to 4-fluoro-3-nitroaniline (3.14 g, 20.1 mmol) and triethylamine (3 mL, 21.5 mmol) in ethyl acetate (200 mL) at room temperature. The reaction mixture was stirred overnight at room temperature then diluted to ˜500 mL with ethyl acetate. The ethyl acetate was washed successively with 1N HCl (100 mL), saturated sodium bicarbonate (100 mL), and brine (100 mL), then dried (magnesium sulfate), filtered, and stripped of solvent under reduced pressure. Trituration of the residue in hexanes (125 mL) and a few milliliters of ethyl acetate afforded the product by filtration (5.6 g); m.p. 202-204° C.

reactant | 3,4-Dichlorobenzoyl chloride | 20.5 mmol, 4.3 g | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
reactant | 4-fluoro-3-nitroaniline | 20.1 mmol, 3.14 g | FC1=C(C=C(N)C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | triethylamine | 21.5 mmol, 3 mL | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 3,4-Dichloro-N-(3-nitro-4-fluorophenyl)-benzamide | ClC=1C=C(C(=O)NC2=CC(=C(C=C2)F)[N+](=O)[O-])C=CC1Cl | C13H7Cl2FN2O3
